US05107013
6-Methoxy-2-propionylnaphthalene
29.3 Grams of 5-bromo-6-methoxy-2-propionylnaphthalene are dissolved in 100 ml of anhydrous methylene chloride and in 20.8 ml of mesitylene. 20 Grams of anhydrous aluminum chloride are added portionwise to the reaction mixture cooled to -5° C. under strong stirring, while keeping the temperature below 20° C. The reaction mixture is kept for over 3 hours under stirring at room temperature, then it is slowly poured under strong stirring into a mixture made of 110 g of ice and of 35 ml of a 35% (w/v) aqueous solution of hydrochloric acid. The layers are separated after 15 minutes of stirring and the aqueous layer is discarded. The organic layer first is twice washed with 50 ml of a 6N aqueous solution of hydrochloric acid and then with 50 ml of water. The organic solution is then added with 50 ml of water and the pH is brought to 12 by means of a 30% (w/v) aqueous solution of sodium hydroxide.

reactant | 5-bromo-6-methoxy-2-propionylnaphthalene | BrC1=C2C=CC(=CC2=CC=C1OC)C(CC)=O | C14H13BrO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | mesitylene | 20.8 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 6-Methoxy-2-propionylnaphthalene | COC=1C=C2C=CC(=CC2=CC1)C(CC)=O | C14H14O2
